US07776859B2
To (S)-benzyl 3-(hydroxymethyl)piperazine-1-carboxylate (256 mg, 1.02 mmol) in DMA (1 mL) was added phenyl 4-cyano-3-(trifluoromethyl)phenylcarbamate (250 mg, 0.82 mmol), and the mixture was heated to 40° C. for 5 h. The reaction was cooled to RT, and PPh3 (321 mg, 1.22 mmol) followed by DIAD (241 μL, 1.22 mmol) were added to the reaction. After stirring for 15 min at RT, the reaction was diluted with EtOAc (20 mL) and washed twice with 0.5 N NaOH (10 mL), then twice with sat'd brine (10 mL). The EtOAc was dried over MgSO4 then concentrated in vacuo. The residue was taken up in CH2Cl2 (5 mL) and cooled to −10° C., and Et2O (5 mL) was added. The resulting precipitate was collected by filtration and rinsed with cold 1:1 Et2O:CH2Cl2 to give Example 1, (R)-benzyl 2-(4-cyano-3-(trifluoromethyl)phenyl)-3-oxo-hexahydroimidazo[1,5-a]pyrazine-7(1H)-carboxylate 187 mg (52%). HPLC RT: 3.253 min (Chromolith SpeedROD 4.6×50 mm, 10-90% aqueous MeOH over 4 minutes containing 0.1% TFA, 4 ml/min, monitoring at 220 nm). (M+H)+:445.

reactant | (S)-benzyl 3-(hydroxymethyl)piperazine-1-carboxylate | 1.02 mmol, 256 mg | OC[C@@H]1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C13H18N2O3
reactant | phenyl 4-cyano-3-(trifluoromethyl)phenylcarbamate | 0.82 mmol, 250 mg | C(#N)C1=C(C=C(C=C1)NC(OC1=CC=CC=C1)=O)C(F)(F)F | C15H9F3N2O2
reactant | PPh3 | 1.22 mmol, 321 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.22 mmol, 241 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (R)-benzyl 2-(4-cyano-3-(trifluoromethyl)phenyl)-3-oxo-hexahydroimidazo[1,5-a]pyrazine-7(1H)-carboxylate | 187 mg, 52% | C(#N)C1=C(C=C(C=C1)N1C(N2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)C1)=O)C(F)(F)F | C22H19F3N4O3
